US07220862B2
(±)-2-Amino-3-(1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-propionic acid methyl ester
To a solution of 2-(di-tert-butoxycarbonylamino)-3-(1,4,6,7-tetrahydro-pyrazolo-[4,3-c]pyridin-5-yl)-propionic acid methyl ester (0.55 g, 1 equiv.) in methylene chloride (5 mL, 0° C.) was added trifluoroacetic acid (1.5 mL). The ice bath was removed and stirring continued for 2 h. The solution was concentrated, redissolved in methanol, and passed onto a column of strong cation exchange resin. After flushing with methanol, the product was removed from the column by eluting with 2 M ammonia in methanol to afford the product as its free base (275 mg, 95%). 1H-NMR (CDCl3, 500 MHz) δ 2.71 (dd, J=12.8, 8.6, 1H), 2.74–2.91 (m, 6H), 3.48 (s, 2H), 3.54 (d, J=13.4, 1H), 3.62 (d, J=13.4, 1H), 3.69 (dd, J=8.2, 4.9, 1H), 3.73 (s, 3H), 7.27 (s, 1H). Mass spec.: 225.16 (MH)+.

reactant | 2-(di-tert-butoxycarbonylamino)-3-(1,4,6,7-tetrahydro-pyrazolo-[4,3-c]pyridin-5-yl)-propionic acid methyl ester | 0.55 g, 1 equiv. | COC(C(CN1CC2=C(CC1)NN=C2)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C20H32N4O6
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-2-Amino-3-(1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl)-propionic acid methyl ester | 275 mg, 95% | COC(C(CN1CC2=C(CC1)NN=C2)N)=O | C10H16N4O2
